US04845242
0.27 g of 7-guanidino-3-methoxyisocoumarin (1 mmole) was chlorinated with 0.15 g of N-chlorosuccinimide (1.1 mmole) in 5 ml DMF at r.t. overnight. The reaction mixture was evaporated to dryness, and purified by silica gel column chromatography which is eluted with methylene chloride and methanol (5:1) to give 0.1 g of 7-guanidino-3-methoxy-4-chloroisocoumarin (yield 34%). One spot on TLC, Rf =0.75 (Butanol:acetic acid:pyridine:water=4:1:1:2); NMR spectrum is similar to 7-guanidino-3-methoxyisocoumarin except no peak at 6.1 ppm; mass spectrum (FAB+), m/e=268 (M+ -Cl). Anal. Calc. for C11H11N3O3Cl2.1/2H2O: C, 42.17; H, 3.83; N, 13.41; Cl, 22.68. Found: C, 42.65; H, 3.72; N, 13,28; Cl, 22.32.

reactant | 7-guanidino-3-methoxyisocoumarin | 1 mmole, 0.27 g | N(C(=N)N)C1=CC=C2C=C(OC(=O)C2=C1)OC | C11H11N3O3
reactant | N-chlorosuccinimide | 1.1 mmole, 0.15 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-guanidino-3-methoxy-4-chloroisocoumarin | 0.1 g, yield 34% | N(C(=N)N)C1=CC=C2C(=C(OC(=O)C2=C1)OC)Cl | C11H10ClN3O3
